US05104867
6-(2) 4-(4-Methoxybenzylthio)-1-methylpiperidine
10.9 ml of 4-methoxybenzyl mercaptan were dissolved in 55 ml of dry dimethylformamide, and 3.4 g of sodium hydride (as a 55% w/w suspension in mineral oil) were added to the solution, whilst ice-cooling. The mixture was then stirred at room temperature for 30 minutes. At the end of this time, a solution of 12.6 g of 4-methanesulfonyloxy-1-methylpiperidine in 63 ml of dry dimethylformamide was added to the mixture, which was then allowed to stand overnight at room temperature. The reaction mixture was then poured into an aqueous solution of sodium chloride and extracted with ethyl acetate. The extract was washed with an aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. The solvent was then removed by distillation under reduced pressure, and the residue was purified by column chromatography through silica gel (eluted with a 1:4 by volume mixture of ethyl acetate and methanol) to afford 9.01 g of the title compound as an oil.

reactant | 4-methoxybenzyl mercaptan | 10.9 ml | COC1=CC=C(CS)C=C1 | C8H10OS
reactant | sodium hydride | 3.4 g | [H-].[Na+]
reactant | 4-methanesulfonyloxy-1-methylpiperidine | 12.6 g | CS(=O)(=O)OC1CCN(CC1)C | C7H15NO3S
reactant | sodium chloride | [Cl-].[Na+]
solvent | dimethylformamide | 55 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 63 ml | CN(C=O)C | C3H7NO
product | 4-(4-Methoxybenzylthio)-1-methylpiperidine | 9.01 g | COC1=CC=C(CSC2CCN(CC2)C)C=C1 | C14H21NOS
